US06486184B2
A solution of rac-cyclohexyloxy-(3,4-dichloro-phenyl)-acetic acid methyl ester (527 mg, 1.66 mmol) in ethanol (15 mL) was treated with a solution of potassium hydroxide (233 mg, 4.15 mmol) in water (2 mL) and the mixture was stirred at 25° C. After 3 h, the reaction was diluted with water (5 mL), and the ethanol was removed in vacuo. The aqueous layer was then acidified to pH 2 with 1N hydrochloric acid and extracted with dichloromethane (3×15 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residual oil was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 95/5 chloroform/methanol plus 1% acetic acid) to give rac-cyclohexyloxy-(3,4-dichloro-phenyl)-acetic acid (487 mg, 97% yield) as a colorless oil: EI-HRMS m/e calcd for C14H16Cl2O3 (M+) 302.0477, found 302.0486.

reactant | rac-cyclohexyloxy-(3,4-dichloro-phenyl)-acetic acid methyl ester | 1.66 mmol, 527 mg | COC(C(C1=CC(=C(C=C1)Cl)Cl)OC1CCCCC1)=O | C15H18Cl2O3
reactant | potassium hydroxide | 4.15 mmol, 233 mg | [OH-].[K+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | rac-cyclohexyloxy-(3,4-dichloro-phenyl)-acetic acid | 487 mg, 97% yield | C1(CCCCC1)OC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H16Cl2O3
